US07674809B2
9b) 2-phenyl-5-nitrobenzothiazole
PPA (210 g) is added to benzoic acid (12.96 g, 0.104 mol) and sodium 2-amino-4-nitrothiophenoxide (19.98 g, 0.104 mol) (V. L. Guarda, Heterocyclic Comm., 2000, 1.6, 49-54). The mixture is heated at 115-120° C. for 10 minutes, cooled, and water (200 ml) is added dropwise, followed by addition of 32 percent NaOH (pH=5). The product is filtered off and suspended in NaHCO3 ss, filtered off, washed with water and recrystallized from isopropyl ether. Yield: 17.0 g (64%); IR (KBr): 1515, 1341 cm−1; 1H-NMR (d6-DMSO) 8.77 (d, 1H); 8.39 (d, 1H); 8.25 (dd, 1H); 8.11 (dd, 1H); 7.61 (m, 4H).

reactant | benzoic acid | 0.104 mol, 12.96 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | sodium 2-amino-4-nitrothiophenoxide | 0.104 mol, 19.98 g | NC1=C([S-])C=CC(=C1)[N+](=O)[O-].[Na+]
reactant | NaOH | pH=5 | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-phenyl-5-nitrobenzothiazole | C1(=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H8N2O2S
